US04124595
A solution of fresh sodium ethoxide prepared from 7.6 g (washed well gram-atom metallic sodium) in 200 ml of absolute ethanol was treated dropwise with 56.18 g (0.330 mole) of 3-acetylmercaptocycloheptene in 10 ml of absolute ethanol. The reaction was heated under reflux for 15 minutes and then cooled to room temperature. A solution of 49.69 ml (0.330 mole) of bromoacetaldehyde diethylacetal in 30 ml of absolute ethanol was added dropwise. The reaction mixture was heated under reflux for 2.0 hours and cooled. The precipitated sodium bromide was filtered and washed with absolute ethanol. The filtrate was concentrated and the residue partitioned between ether/brine. The aqueous phase was further extracted with ether. The organic extracts were pooled, dried over magnesium sulfate, and evaporated to afford 80.1 g (0.328 mole, 99%) of pure 3-[(2,2-diethoxyethyl)thio]-1-cycloheptene, as a colorless oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-acetylmercaptocycloheptene | 0.330 mole, 56.18 g | C(C)(=O)SC1C=CCCCC1 | C9H14OS
reactant | bromoacetaldehyde diethylacetal | 0.330 mole, 49.69 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-[(2,2-diethoxyethyl)thio]-1-cycloheptene | 0.328 mole, 80.1 g, 99% | C(C)OC(CSC1C=CCCCC1)OCC | C13H24O2S
